US08293735B2
4-Bromo-6-fluoro-1H-indole
Prepared according to the method used in the preparation of 4-bromo-1H-indole-6-sulfonic acid dimethylamide using 1-bromo-5-fluoro-2-methyl-3-nitro-benzene in place of 3-bromo-4-N,N-trimethyl-5-nitro-benzenesulfonamide. The title compound was obtained as a white solid (6.06 g, 33%).

reactant | 4-bromo-1H-indole-6-sulfonic acid dimethylamide | CN(S(=O)(=O)C1=CC(=C2C=CNC2=C1)Br)C | C10H11BrN2O2S
reactant | 1-bromo-5-fluoro-2-methyl-3-nitro-benzene | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
product | 4-Bromo-6-fluoro-1H-indole | BrC1=C2C=CNC2=CC(=C1)F | C8H5BrFN
